US08030435B2
10 g (0.056 moles) of 2,4,4-trimethylpentyl phosphinic acid, 15.82 g (0.056 moles) of methyl oleate (CE-1897 from P&G Chemical) and 0.5 mL (0.0023 moles) of di-tert-amylperoxide are mixed in a 100 mL single neck flask. The mixture is purged with argon to remove oxygen and is heated under argon for 6 hours at 140° C. Tert-amyl alcohol is removed by distillation and 25.8 g (quantitative yield) of 10-[hydroxy-(2,4,4-trimethyl-pentyl)-phosphinoyl]-octadecanoic acid methyl ester is obtained as a slightly yellow oil.

reactant | 2,4,4-trimethylpentyl phosphinic acid | 0.056 moles, 10 g | CC(CP(O)=O)CC(C)(C)C | C8H19O2P
reactant | methyl oleate | 0.056 moles, 15.82 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC | C19H36O2
catalyst | di-tert-amylperoxide | 0.0023 moles, 0.5 mL | C(C)(C)(CC)OOC(C)(C)CC | C10H22O2
product | 10-[hydroxy-(2,4,4-trimethyl-pentyl)-phosphinoyl]-octadecanoic acid methyl ester | 25.8 g, quantitative yield | COC(CCCCCCCCC(CCCCCCCC)P(=O)(CC(CC(C)(C)C)C)O)=O | C27H55O4P
